US03974219
A mixture of 2.93 g. (0.0125 mole) of phosphorous diphenyl ester and 3.37 g. (0.0125 mole) of mercuric chloride was refluxed for 1 hour in 20 ml. of pyridine. Thereafter, 1.74 g. (0.0125 mole) of p-nitrophenol and 10 ml. of pyridine were added, and the mixture was further reacted for 1 hour. To the reaction mixture were added 2.61 g. (0.0125 mole) of Z-Gly. OH having an amino group protected with Z and 10 ml. of pyridine, and the mixture was reacted under reflux for 1 hour. After completion of the reaction, pyridine was removed by distillation under reduced pressure, and the residue was extracted with 100 ml. of ethyl acetate. The ethyl acetate layer was washed with 2N--HCl, a saturated aqueous NaHCO3 solution and water in this order and then dried over anhydrous Na2SO4, and thereafter ethyl acetate was removed by distillation under reduced pressure. The resulting residue was allowed to stand to form a solid, which was then recrystallized from ethanol to obtain N-benzyloxycarbonyl glycine p-nitrophenyl ester (hereinafter represented by ##SPC6##

reactant | phosphorous diphenyl ester | 0.0125 mole | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)O | C12H11O3P
reactant | p-nitrophenol | 0.0125 mole | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | Z-Gly | 0.0125 mole | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-benzyloxycarbonyl glycine p-nitrophenyl ester | yield of 75% | [N+](=O)([O-])C1=CC=C(C=C1)OC(CNC(=O)OCC1=CC=CC=C1)=O | C16H14N2O6
